US07776875B2
Preparation of Intermediate E/Z-3-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester (15.5 g, 36 mmol) in dichloromethane (200 mL) at room temperature was added di-tert-butyl-dicarbonate (8.6 g, 39 mmol), followed by the addition of 4-dimethylaminopyridine (0.4 g, 3.3 mmol). After the reaction mixture was stirred at room temperature for 1 h, the solution was washed with 1 M HCl and brine twice, dried over anhydrous Na2SO4 and concentrated to give the title compound as a yellow solid (15 g).

reactant | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester | 36 mmol, 15.5 g | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C22H21Cl2NO4
reactant | di-tert-butyl-dicarbonate | 39 mmol, 8.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.3 mmol, 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 15 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)OC)CC)=O | C27H29Cl2NO6
